US09403807B2
Step A: N-(1-(3-(4-chlorophenyl)-6-hydroxyhexan-3-yl)-1H-indol-4-yl)methanesulfonamide
To a solution of methyl 4-(4-chlorophenyl)-4-(4-(methylsulfonamido)-1H-indol-1-yl)hexanoate (20 mg, 0.045 mmol), as described in Example 44 Step E, in tetrahydrofuran (2 mL) was added lithium aluminium hydride (2.5 mg, 0.0675 mmol) at 0° C. The mixture was gradually warmed to room temperature and stirred for 4 h. Water (1 mL) was carefully added to the reaction mixture, and extracted with ethyl acetate. The combined organic layers were washed with brine (30 mL), dried over anhydrous sodium sulfate, filtered and concentrated. The crude product was purified by PREP-TLC eluting with PE/EA (2/1, v/v) to give the title compound as colorless oil. LC/MS m/z=421.0[M+H]+.

reactant | methyl 4-(4-chlorophenyl)-4-(4-(methylsulfonamido)-1H-indol-1-yl)hexanoate | 0.045 mmol, 20 mg | ClC1=CC=C(C=C1)C(CCC(=O)OC)(CC)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C22H25ClN2O4S
reactant | lithium aluminium hydride | 0.0675 mmol, 2.5 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 1 mL | O | H2O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | N-(1-(3-(4-chlorophenyl)-6-hydroxyhexan-3-yl)-1H-indol-4-yl)methanesulfonamide | ClC1=CC=C(C=C1)C(CC)(CCCO)N1C=CC2=C(C=CC=C12)NS(=O)(=O)C | C21H25ClN2O3S
